US05698694
Preparation of 4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxyphthalide
A mixture of 1.22 g of TMEDA and 60 ml of THF is prepared under anhydrous condition and cooled to -10° with stirring. 36.03 g of a 20.5% solution of n-BuLi in cyclohexane is added and after 30 mins stirring the solution is cooled to -60°. A solution of 10.0 g of 2,5-dichlorobenzoic acid in 40 ml of THF is added over 10 min. at -60°. After a further 30 mins of stirring this solution is added over 15 min under argon pressure to a solution of 8.97 g of allyl 4,6-dimethoxypyrimidine-2-carboxylate in 60 ml of THF at -25° and the clear yellow solution cooled to -25°. After stirring at -20° for 60 mins, 60 ml of 10% HCl are added and the temperature allowed to rise to 13° with stirring over a 15 min period. The organic phase is separated and evaporated to yield a viscous residue to which is added 17 ml of methanol. The resulting suspension is cooled in an ice/water bath, filtered and the crystals washed with 2×10 ml methanol and dried under vacuum at 70° C. to yield the title product.

reactant | TMEDA | 1.22 g | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | [Li]CCCC
reactant | 2,5-dichlorobenzoic acid | 10.0 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | allyl 4,6-dimethoxypyrimidine-2-carboxylate | 8.97 g | COC1=NC(=NC(=C1)OC)C(=O)OCC=C | C10H12N2O4
reactant | HCl | 60 ml | Cl | ClH
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | methanol | 17 ml | CO | CH4O
product | 4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxyphthalide | ClC1=C2C(OC(=O)C2=C(C=C1)Cl)(O)C1=NC(=CC(=N1)OC)OC | C14H10Cl2N2O5
